US06080754
Dipiperidinomethane (0.3 ml, 1.5 mmol) was dissolved in 20 ml of dimethoxyethane and acetyl chloride (0.11 ml, 1.5 mmol) was added. The mixture was stirred for 30 minutes, while 4-acetyl-5-benzyloxy-2-(4benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizine (0.5 g, 1.0 mmol) was added and HCl-gas was bubbled through the mixture for 15 minutes. The reaction mixture was refluxed for 5 hours and stirred at room temperature for 16 hours. The solvent was evaporated, and the crude HCl-salt was purified by column chromatography over silica gel 60, using 5% of methanol in dichloromethane as the eluent. Fractions containing the HCl-salt were combined and the solvent was evaporated. The salt was dissolved in 20 ml of dry dichloromethane and 2.13 g sodium sulfate and 2.76 g potassium carbonate was added. The mixture was stirred at room temperature for 24 hours. Remaining salts were filtered off, and the solvent was evaporated. The crude product was purified by column chromatography over silica gel 60, using 5% methanol in dichloromethane as the eluent to afford 170 mg (28%) of 5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-4-(1-oxo-3-piperidinopropyl)pyrrolo[2,1,5-cd]indolizine as an oil. 1H--NMR (CDCl3, 200 MHz) δ: 1.35-1.75 (m, 9 H); 2.34-3.75 (m, 10 H); 5.17 (s, 4 H); 7.10-7.78 (m, 17 H).

reactant | Dipiperidinomethane | 1.5 mmol, 0.3 ml | N1(CCCCC1)CN1CCCCC1 | C11H22N2
reactant | acetyl chloride | 1.5 mmol, 0.11 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-acetyl-5-benzyloxy-2-(4benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 1.0 mmol, 0.5 g | C(C)(=O)C=1C=C2C(=C(C3=CC=C(C1N23)OCC2=CC=CC=C2)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H29NO3
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 5-benzyloxy-2-(4-benzyloxyphenyl)-1-ethyl-4-(1-oxo-3-piperidinopropyl)pyrrolo[2,1,5-cd]indolizine | 170 mg, 28% | C(C1=CC=CC=C1)OC=1C=2N3C(C(=C(C3=CC1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=CC2C(CCN2CCCCC2)=O | C40H40N2O3
